US06150379
A mixture comprising 5-propoxypyridine-2-carboxyaldehyde (0.19 g, 1.15 mmol), 3,4-diaminobenzamidine hydrochloride (0.21 g, 1.15 mmol) and nitrobenzene (2 mL) was heated at 150° C. for 15 hours, cooled and then diluted with 1:1 acetonitrile/ether (50 mL) to give a precipitate. The precipitate was isolated by filtration and purified by HPLC to provide 2-(5-propyloxypyridin-2-yl]-1H-benzimidazole-5-carboxamidine. 1H-NMR (300 Mhz, CD3OD): 1.1 (t, 3H), 2.0 (m, 2H), 4.5 (t, 2H), 7.75 (m, 1H), 7.86 (m, 2H), 8.1 (m, 1H), 8.35 (m, 1H); 8.55 (m, 1H); MS (ESI), Calculated for C16H17N5O: 295.3, Found (MH+): 295.9.

reactant | 3,4-diaminobenzamidine hydrochloride | 1.15 mmol, 0.21 g | Cl.NC=1C=C(C(=N)N)C=CC1N
reactant | nitrobenzene | 2 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetonitrile ether | 50 mL | C(C)#N.CCOCC
product | 2-(5-propyloxypyridin-2-yl]-1H-benzimidazole-5-carboxamidine | C(CC)OC=1C=CC(=NC1)C1=NC2=C(N1)C=CC(=C2)C(=N)N | C16H17N5O
